US08614215B2
Intermediate 44: 1-(3-methoxy-5-nitrobenzoyl)-4-methylpiperazine
3-Nitro-5-methoxybenzoic acid (1 g; 5.07 mmol; 1 eq; commercially available IMPAMEX) is dissolved in a mixture of DCM (40 mL) and THF (10 mL) at room temperature. It is then cooled down at 0° C. and thionyl dichloride (1.1 mL; 15.22 mmol; 3 eq) is added slowly. After 30 min, triethylamine (2.11 mL; 15.22 mmol; 3 eq) and 1-methylpiperazine (1.64 mL; 15.22 mmol; 3 eq) are added at 0° C. and the reaction mixture is gently warmed up to rt and stirred for 48 h. Water is added and the solvents are evaporated. The product is extracted with EtOAc and the organic phase is washed with aqueous Na2CO3 and dried over MgSO4. The solvent is concentrated under reduced pressure to afford 900 mg (63.5%) of the title compound. The next step is carried out directly on the crude material. LC/MS: (ES+): 280.3; (ES−): 278.5

reactant | 3-Nitro-5-methoxybenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)OC | C8H7NO5
reactant | thionyl dichloride | 15.22 mmol, 1.1 mL, 3 eq | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 15.22 mmol, 2.11 mL, 3 eq | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 15.22 mmol, 1.64 mL, 3 eq | CN1CCNCC1 | C5H12N2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 1-(3-methoxy-5-nitrobenzoyl)-4-methylpiperazine | 900 mg, 63.5% | COC=1C=C(C(=O)N2CCN(CC2)C)C=C(C1)[N+](=O)[O-] | C13H17N3O4
